US05166204
A mixture of 210 mg of N-(2-dimethylaminoethyl)-6,7-dimethoxycarbazole-3,4-dicarboximide and 1.66 g of pyridine hydrochloride was sealed in a tube and stirred at 200°-210° C. for 2 hours. Then, 150 ml of water and 100 ml of ethyl acetate were added to the reaction mixture to dissolve the mixture. The solution was adjusted to pH 8.5 with potassium carbonate. The organic layer was separated, washed with an aqueous saturated sodium chloride solution, and dried over anhydrous potassium carbonate. The solvent was removed by distillation under reduced pressure. The residue was mixed with 20 ml of diethyl ether, and the mixture was stirred for 10 minutes. The resulting insoluble material was collected by filtration and recrystallized from n-propanol to obtain 58 mg (yield: 31%) of N-(2-dimethylaminoethyl)-6,7-dihydroxycarbazole-3,4-dicarboximide as yellow crystals.

reactant | N-(2-dimethylaminoethyl)-6,7-dimethoxycarbazole-3,4-dicarboximide | 210 mg | CN(CCN1C(=O)C=2C=CC=3NC4=CC(=C(C=C4C3C2C1=O)OC)OC)C | C20H21N3O4
reactant | pyridine hydrochloride | 1.66 g | Cl.N1=CC=CC=C1
reactant | water | 150 ml | O | H2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | N-(2-dimethylaminoethyl)-6,7-dihydroxycarbazole-3,4-dicarboximide | 58 mg, yield: 31% | CN(CCN1C(=O)C=2C=CC=3NC4=CC(=C(C=C4C3C2C1=O)O)O)C | C18H17N3O4
